US08633175B2
Step 1: 3-bromo-2-hydroxybenzonitrile
To a solution of o-cyanophenol (0.595 g; 5.00 mmol) and diisopropylamine (0.060 mL; 0.40 mmol) in PhMe (50 mL) at 70° C. was added NBS (0.980 g; 5.50 mmol) in one portion. The mixture was stirred 2 h, an additional portion of NBS (0.089 g; 0.5 mmol) was added and heating continued until disappearance of starting material was observed (TLC). The mixture was cooled, diluted with EtOAc washed (water, brine), dried over Na2SO4 and concentrated in vacuo. Attempted resolution of the two reaction products by flash chromatography (EtOAc/hexanes), was unsuccessful; thus the mixture of products was dissolved in DMF (10 mL), K2CO3 (2.07 g; 15.0 mmol) and MeI (0.47 mL; 7.5 mmol) were added and the mixture was stirred overnight at room temperature. The mixture was poured into water and extracted with Et2O (×3). Combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.97 (s, 3H), 7.26 (app. t, J=7.9 Hz, 1H), 7.86 (dd, J=7.8, 1.5 Hz, 1H), 8.01 (dd, J=8.1, 1.5 Hz, 1H). The product obtained above was combined with that of a similar reaction wherein N-methylbenzylamine (0.08 equiv) was substituted for the above diisopropylamine catalyst.

reactant | o-cyanophenol | 5.00 mmol, 0.595 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | diisopropylamine | 0.40 mmol, 0.060 mL | C(C)(C)NC(C)C | C6H15N
reactant | NBS | 5.50 mmol, 0.980 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 0.5 mmol, 0.089 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | K2CO3 | 15.0 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 7.5 mmol, 0.47 mL | CI | CH3I
solvent | PhMe | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-bromo-2-hydroxybenzonitrile | BrC=1C(=C(C#N)C=CC1)O | C7H4BrNO
